US07524847B2
4-[3-Benzyl-1-(2-cyanobenzyl)-2-oxo-1H-imidazo[4.5-c]pyridin-4-yl]-piperazine-1-carboxylic acid t-butyl ester
Di-t-butyl dicarbonate (0.094 g) and triethylamine (0.050 mL) were added to a solution of 2-(3-benzyl-2-oxo-4-piperazin-1-yl-2,3-dihydroimidazo[4.5-c]pyridin-1-ylmethyl)benzonitrile (compound 80 g) (0.146 g) in dichloromethane (10 mL). This was stirred at room temperature for 15 hours. The solvent was removed under reduced pressure, and the residue was purified by silica gel chromatography. The hexane:ethyl acetate 7:3 fraction gave the title compound (0.121 g).

reactant | Di-t-butyl dicarbonate | 0.094 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 0.050 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(3-benzyl-2-oxo-4-piperazin-1-yl-2,3-dihydroimidazo[4.5-c]pyridin-1-ylmethyl)benzonitrile | 80 g | C(C1=CC=CC=C1)N1C(N(C2=C1C(=NC=C2)N2CCNCC2)CC2=C(C#N)C=CC=C2)=O | C25H24N6O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-[3-Benzyl-1-(2-cyanobenzyl)-2-oxo-1H-imidazo[4.5-c]pyridin-4-yl]-piperazine-1-carboxylic acid t-butyl ester | 0.121 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CC2=C1N(C(N2CC2=C(C=CC=C2)C#N)=O)CC2=CC=CC=C2 | C30H32N6O3
